US05891871
1-(4-Acetamidophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
To a suspension of 1-(4-aminophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4-(4H)-one (90 mg, 0.30 mmol) in CH2Cl2 (10 mL) was added Ac2O (0.30 mL, 3.2 mmol) and Et3N (0.60 mL, 4.3 mmol) at room temperature. The mixture was stirred at room temperature for 2 h, diluted with EtOAc (40 mL), washed with water, 2N NaOH water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography to afford the title compound as a white solid (70 mg, 0.21 mmol, 70%), mp: 177°-180° C. 1H NMR (CDCl3) 8.34 (s, 1H), 7.57 (s, 4H), 7.27 (s, 1H), 6.83 (s, 1H), 6.64 (s, 1H), 6.03 (s, 2H), 3.45 (s, 2H), 2.22 (s, 3H). Anal. calcd. for C18H15N3O4.(1/2)H2O: C, 62.42; H, 4.66; N, 12.13. Found: C, 62.60; H, 4.62; N, 11.57.

reactant | 1-(4-aminophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4-(4H)-one | 0.30 mmol, 90 mg | NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)=O | C16H13N3O3
reactant | Ac2O | 3.2 mmol, 0.30 mL | CC(=O)OC(=O)C | C4H6O3
reactant | Et3N | 4.3 mmol, 0.60 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 1-(4-Acetamidophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 0.21 mmol, 70 mg, 70% | C(C)(=O)NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)=O | C18H15N3O4
